US09216999B2
4-(Cyclohexylamino)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde
4-Chloro-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (845 mg, 4.68 mmol) and cyclohexylamine (2.5 mL, 22 mmol) in ethylene glycol (2 mL) were stirred at 170° C. for 1 hour under microwave irradiation. The reaction mixture was allowed to cool to room temperature and, after addition of water, extracted with chloroform. The organic layer was stirred with 2 M hydrochloric acid (20 mL) for 1 hour, and the organic layer was separated. The aqueous layer was adjusted to pH 9 or above with 10 M aqueous sodium hydroxide and extracted with chloroform. The organic layers were combined, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=10/1 (v/v)) to give the title compound as a pale yellow oil (804 mg, yield 71%).

reactant | 4-Chloro-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 4.68 mmol, 845 mg | ClC1=C2C(=NC=C1C=O)NC=C2 | C8H5ClN2O
reactant | cyclohexylamine | 22 mmol, 2.5 mL | C1(CCCCC1)N | C6H13N
reactant | water | O | H2O
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
product | 4-(Cyclohexylamino)-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 804 mg, yield 71% | C1(CCCCC1)NC1=C2C(=NC=C1C=O)NC=C2 | C14H17N3O
